* RC Relaxation Oscillator Approximation
Vdd vdd 0 DC 5
Bcmp out 0 V = { 0.5 * V(vdd) * (1 - tanh(1000 * (V(cap) - 0.5 * V(vdd)))) }
Rtiming out cap 100k
C1 cap 0 100n IC=0
.tran 10u 20m 0 10u UIC

.control
set noaskquit
save all
run
.endc

.end
